US04079050
Chloracetone was reacted with sodium hydrosulphide in h aqueous medium, and the resulting solution was treated with ethylcyanoacetate in the presence of triethylamine at the boil. Addition of water precipitated 2-amino-3-ethoxycarbonyl-4-methylthiophene which was acetylated and then heated with an aqueous solution of sodium hydroxide to give 2-acetylamino-4-methylthiophene-3-carboxylic acid. This was decarboxylated by heating in N:N-diethylaniline at 220° C, the product dinitrated in sulphuric acid medium at -5° C, and then deacetylated by heating in an aqueous solution of sulphuric acid.

reactant | Chloracetone | ClCC(C)=O | C3H5ClO
reactant | sodium hydrosulphide | [SH-].[Na+]
reactant | ethylcyanoacetate | C(C)OC(CC#N)=O | C5H7NO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
product | 2-acetylamino-4-methylthiophene-3-carboxylic acid | C(C)(=O)NC=1SC=C(C1C(=O)O)C | C8H9NO3S
